US04537984
While stirring a mixture of 22.5 g of ethyl 2-(4-formylphenoxy)propionate ([α]D25 =+51.5°) and 60 g of toluene at room temperature, 22.8 g of 40% peracetic acid was dropwise added. After stirring at 20° to 30° C. for 2 hours and at 50° C. for 2 hours, 0.2 g of water was added, and the mixture was stirred for 2 hours. After cooling the reaction mixture to room temperature, 40 g of water was added. The aqueous layer was separated. The organic layer was washed with 40 g of water, followed by washing twice with 40 g of a 5% sodium hydrogen carbonate aqueous solution, then with 40 g of a 5% sodium hydrogen sulfite aqueous solution and further with 40 g of water. Then, the reaction mixture was concentrated by distilling off toluene under reduced pressure, and subjected to distillation under reduced pressure, whereby 16.5 g of (+)-ethyl 2-(4-hydroxyphenoxy)propionate was obtained as a colorless transparent liquid. The boiling point was from 130° to 140° C./1 mmHg.

reactant | ethyl 2-(4-formylphenoxy)propionate | 22.5 g | C(=O)C1=CC=C(OC(C(=O)OCC)C)C=C1 | C12H14O4
reactant | toluene | 60 g | C1(=CC=CC=C1)C | C7H8
reactant | peracetic acid | 22.8 g | C(C)(=O)OO | C2H4O3
solvent | water | 40 g | O | H2O
solvent | water | 0.2 g | O | H2O
product | (+)-ethyl 2-(4-hydroxyphenoxy)propionate | 16.5 g | OC1=CC=C(OC(C(=O)OCC)C)C=C1 | C11H14O4
